US08710043B2
Step 4. 4-Methoxy-2-methyl-5-nitropyridine
To a stirred solution of 4-methoxy-2-methylpyridine (25 g, 0.148 mol) in conc. H2SO4 (17 mL, S. D. Fine, India), a mixture of H2SO4 (17 mL, S.D. Fine, India) and 65% HNO3 (22 mL, Rankem, India) was added in a drop-wise fashion at 0° C. over 30 min. The resulting solution was heated at 65° C. for 12 h. After completion, the reaction mixture was poured in to ice water and neutralized (PH˜8) with 40% NaOH solution to give a yellow precipitate. The precipitate was further stirred and filtered, dried to give a mixture of 3-nitro (major product) and the desired 5-nitro isomers. The product was isolated by column chromatography, silica gel (230-400), eluting with 15% EtOAc in petroleum ether to give the title compound as yellow needles. 1H NMR (400 MHz, DMSO-d6) δ: 8.86 (s, 1H), 7.33 (s, 1H), 3.99 (s, 3H), 2.52 (s, 3H). MS (ESI, positive ion) m/z: 169.0 (M+H).

reactant | 4-methoxy-2-methylpyridine | 0.148 mol, 25 g | COC1=CC(=NC=C1)C | C7H9NO
reactant | HNO3 | 22 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 17 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 17 mL | OS(=O)(=O)O | H2O4S
product | 4-Methoxy-2-methyl-5-nitropyridine | COC1=CC(=NC=C1[N+](=O)[O-])C | C7H8N2O3
